US05258513
2,4-Dichloro-6-ethyl-1,3,5,-triazine.
1.5 equivalent of ethylmagnesium bromide dissolved in diethyl ether (prepared by reacting magnesium with ethyl bromide) are added dropwise to a suspension of one equivalent of cyanuric chloride in toluene, while keeping the temperature of the reaction mixture between 10° and 15° C. After the addition, this mixture is kept at room temperature for one hour. An aqueous solution containing 1.5 equivalent of hydrochloric acid is then added. The two phases are separated, the organic phase is dried over sodium sulfate, then the solvent is removed under reduced pressure. 2,4-dichloro-6-ethyl-1,3,5-triazine is purified by distillation under reduced pressure. Yield: 63%. B.P.: 83° C./17 mbars.

reactant | ethylmagnesium bromide | 1.5 equivalent | C(C)[Mg]Br
reactant | cyanuric chloride | one equivalent | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | hydrochloric acid | 1.5 equivalent | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dichloro-6-ethyl-1,3,5,-triazine | Yield: 63% | ClC1=NC(=NC(=N1)Cl)CC | C5H5Cl2N3
